US05864039
Potassium carbonate (0.87 g) and 4-phenylsulfonylbutyl chloride (0.40 g) were added to a solution (15 ml) of 4-amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride (0.52 g) in dimethylformamide, and the mixture was stirred at 70°-80° C. for 7.5 hr. Water was added to the reaction mixture, and the mixture was extracted with chloroform. The organic layer was washed with brine and dried. The solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel column chromatography. The obtained oil was treated with hydrochloric acid-ethanol and the obtained crystals were recrystallized from ethyl acetate to give 0.10 g of 4-amino-5-chloro-2-methoxy-N-((1-(4-phenylsulfonylbutyl)piperidin-4-yl)methyl)benzamide hydrochloride.

reactant | Potassium carbonate | 0.87 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-phenylsulfonylbutyl chloride | 0.40 g | C1(=CC=CC=C1)S(=O)(=O)CCCCCl | C10H13ClO2S
reactant | 4-amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride | 15 ml, 0.52 g | Cl.Cl.NC1=CC(=C(C(=O)NCC2CCNCC2)C=C1Cl)OC
reactant | Water | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-amino-5-chloro-2-methoxy-N-((1-(4-phenylsulfonylbutyl)piperidin-4-yl)methyl)benzamide hydrochloride | 0.10 g | Cl.NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCS(=O)(=O)C2=CC=CC=C2)C=C1Cl)OC | InChI=1S/C24H32ClN3O4S.ClH/c1-32-23-16-22(26)21(25)15-20(23)24(29)27-17-18-9-12-28(13-10-18)11-5-6-14-33(30,31)19-7-3-2-4-8-19;/h2-4,7-8,15-16,18H,5-6,9-14,17,26H2,1H3,(H,27,29);1H
